US07884210B2
An equimolar mixture of 1,1-carbonyldiimidazole, (2-amino-thiazole-5-sulfonylamino)-acetic acid ethyl ester and DMAP (5 mol %) in THF was heated for 5 h at 50-60° C. and then cooled to room temperature. Then (3-methyl-butyl)-(4-methyl-cyclohexyl)-amine (1 equivalent; prepared following the procedure described in the preparation of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid) was added and the reaction is stirred overnight at room temperature. The reaction mixture was quenched with water. The organic phase was isolated and the aqueous phase was extracted with CH2Cl2, and the combined organic phases were dried and concentrated in vacuo. The crude product was dissolved in MeCN and purified using HPLC to give {2-[3-(3-methyl-butyl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid ethyl ester as crystals.

reactant | (2-amino-thiazole-5-sulfonylamino)-acetic acid ethyl ester | C(C)OC(CNS(=O)(=O)C1=CN=C(S1)N)=O | C7H11N3O4S2
reactant | (3-methyl-butyl)-(4-methyl-cyclohexyl)-amine | CC(CCNC1CCC(CC1)C)C | C12H25N
reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
product | {2-[3-(3-methyl-butyl)-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid ethyl ester | C(C)OC(CNS(=O)(=O)C1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)CCC(C)C)=O | C20H34N4O5S2
